US06365736B1
g) (±)-2-Methyl-3-amino-6-[(1-imidazolyl)-methyl]-3,4-dihydro-1,4-benzoxazine
155 mg (0.597 mmol of (±)-2-methyl-3-thioxo-6-[(1-imidazolyl)-methyl]-3,4-dihydro-2H-1,4-benzoxazine is mixed with 10 ml of 7N NH3 in methanol, and it is stirred for 2.5 hours at room temperature. After 20 ml of toluene is added, the solvent is then spun off, and the desired compound is obtained quantitatively, melting point 152-156° C.

reactant | (±)-2-methyl-3-thioxo-6-[(1-imidazolyl)-methyl]-3,4-dihydro-2H-1,4-benzoxazine | 0.597 mmol | CC1OC2=C(NC1=S)C=C(C=C2)CN2C=NC=C2 | C13H13N3OS
reactant | NH3 | 7N, 10 ml | N | H3N
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | (±)-2-Methyl-3-amino-6-[(1-imidazolyl)-methyl]-3,4-dihydro-1,4-benzoxazine | CC1OC2=C(NC1N)C=C(C=C2)CN2C=NC=C2 | C13H16N4O
